US06664269B2
A well-stirred mixture of homophthalic acid (10 g; 56 mmol) and 2-(4-methoxyphenyl)acetyl chloride (10 g, 230 mmol) was heated at 200° C. for 3 hours under nitrogen then cooled to 50° C. and dissolved in toluene (100 ml), The solvent was removed in vacuo and the residue was dissolved in methanol (100 ml). Silica (30 g) was added and the solvent was removed in vacuo. The crude product, thereby adsorbed onto silica, was applied to the top of a column of silica and purified by chromatography using 10-50% mixtures of ethyl acetate and hexane as eluant. Appropriate fractions were combined and the solvents removed in vacuo to give 3-(4-methoxybenzyl)isocoumarin (0.9 g, 26%) as an oil; δH 3.75 (3H, s), 3.80 (2H, s), 6.50 (1H, s), 6.95 (2H, d, J=8.9 Hz), 7.30 (2H, d, J=8.9 Hz), 7.40-7.90 (3H, m), 8.10 (1H, d); m/z (M+H)+. 267.

reactant | homophthalic acid | 56 mmol, 10 g | C(CC=1C(C(=O)O)=CC=CC1)(=O)O | C9H8O4
reactant | 2-(4-methoxyphenyl)acetyl chloride | 230 mmol, 10 g | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-methoxybenzyl)isocoumarin | 0.9 g, 26% | COC1=CC=C(CC=2OC(=O)C3=CC=CC=C3C2)C=C1 | C17H14O3
